US07884124B2
A solution of 2-methyl-4-trifluoromethyl-furan (J. Heterocyclic Chemistry 1970, 7, 269-272) (340 mg, 2.26 mmol), N-bromosuccinimide (423 mg, 2.38 mmol) and azobisisobutyronitrile (19 mg, 0.11 mmol) in carbon tetrachloride (10 mL) was refluxed for 1.5 h, then allowed to cool to rt and filtered through a cotton plug. The solvent was evaporated to give 2-(bromomethyl)-4-(trifluoromethyl)furan as an orange oil (508 mg, 98%). The product was pure enough by proton NMR that no further purification was necessary. 1H NMR (400 MHz, CDCl3) δ ppm 4.46 (d, J=0.44 Hz, 2H), 6.56 (d, J=0.49 Hz, 1H), 7.77 (m, 1H).

reactant | 2-methyl-4-trifluoromethyl-furan | 2.26 mmol, 340 mg | CC=1OC=C(C1)C(F)(F)F | C6H5F3O
reactant | N-bromosuccinimide | 2.38 mmol, 423 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | azobisisobutyronitrile | 0.11 mmol, 19 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-(bromomethyl)-4-(trifluoromethyl)furan | 508 mg, 98% | BrCC=1OC=C(C1)C(F)(F)F | C6H4BrF3O
